US07629350B2
A solution of 4,6-dichloro-2-methylsulfanyl-pyrimidine-5-carbaldehyde [Santilli, et al., J. Heterocycl. Chem. 1971, 8, 445-45] (1.0 gram (hereinafter “g”), 4.48 millimoles (hereinafter “mmol”)) in CHCl3 (20 milliliters (hereinafter “mL”)) was added 2,4,6-tri-fluoroaniline (0.735 g, 5 mmol) followed by Et3N (0.94 mL, 6.72 mmol, 1.5 equivalents (hereinafter “eq”)). The reaction mixture turned yellow and was heated at 50° C. for 8 hours (hereinafter “h”), 1 M aq Na2CO3 solution (50 mL) was added and the layers were separated. The organic layer was washed with 50 ml sat'd. aqueous (hereinafter “satd aq”) NaCl solution, dried through anhydrous MgSO4 and evaporated. The crude product was purified by flash chromatography (Hex/AcOEt=95/5) to afford 1.3 g (87%) of pure 4-chloro-6-(2,4,6-trifluoro-phenylamino)-2-methylsulfanyl-pyrimidine-5-carbaldehyde.

reactant | 4,6-dichloro-2-methylsulfanyl-pyrimidine-5-carbaldehyde | 4.48 millimoles, 1.0 gram | ClC1=NC(=NC(=C1C=O)Cl)SC | C6H4Cl2N2OS
reactant | 2,4,6-tri-fluoroaniline | 5 mmol, 0.735 g | FC1=C(N)C(=CC(=C1)F)F | C6H4F3N
reactant | Et3N | 6.72 mmol, 0.94 mL, 1.5 equivalents | CCN(CC)CC | C6H15N
reactant | Na2CO3 | 1 M, 50 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | CHCl3 | 20 milliliters | C(Cl)(Cl)Cl | CHCl3
product | 4-chloro-6-(2,4,6-trifluoro-phenylamino)-2-methylsulfanyl-pyrimidine-5-carbaldehyde | 1.3 g, 87% | ClC1=NC(=NC(=C1C=O)NC1=C(C=C(C=C1F)F)F)SC | C12H7ClF3N3OS
